US07091214B2
8-Bromo-1-isobutyl-1H-imidazo[4,5-c]quinolin-4-amine and benzeneboronic acid were coupled according to the general procedure described in Part J of Example 1. Recrystallization from isopropanol followed by recrystallization from methanol afforded 1-isobutyl-8-phenyl-1H-imidazo[4,5-c]quinolin-4-amine as a beige solid, m.p. 203–204° C.

reactant | 8-Bromo-1-isobutyl-1H-imidazo[4,5-c]quinolin-4-amine | BrC1=CC=2C3=C(C(=NC2C=C1)N)N=CN3CC(C)C | C14H15BrN4
reactant | benzeneboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 1-isobutyl-8-phenyl-1H-imidazo[4,5-c]quinolin-4-amine | C(C(C)C)N1C=NC=2C(=NC=3C=CC(=CC3C21)C2=CC=CC=C2)N | C20H20N4
